US07534797B2
2-(3-Chloropyrazin-2-ylmethyl)-isoindole-1,3-dione
A solution of (3-chloropyrazin-2-yl)-methanol (47 g, 0.33 mol), isoindole-1,3-dione (58.3 g, 0.396 mol, 1.2 eq.), and triphenylphosphine (89.7 g, 0.396 mol, 1.2 eq.) in anhydrous THF (1.5 L) was charged with DIAD (80.2 g, 0.396 mol, 77.1 mL, 1.2 eq.) dropwise at rt, under N2, making sure the internal temperature did not surpass 40° C. The crude material was adsorbed onto silica gel, dry loaded, and purified by chromatography on silica gel [6″×16″ column, 2.75 kg silica gel, eluting with Hex:CH2Cl2 1:1→neat CH2Cl2→MeCN:CH2Cl2→2→10%.] Material was combined and concentrated in vacuo. Residue was dissolved as best as possible in hot CH2Cl2 (500 mL), after which i-PrOH was added and a white crystalline solid began to precipitate out of solution. Solid was filtered, washed with i-PrOH, and oven-dried to remove all traces of solvent, affording the title compound, as an off-white solid; 1H NMR (400 MHz, CDCl3) δ 5.10 (s, 1H), 7.75-7.80 (m, 2H), 7.89-7.94 (m, 2H), 8.26 (1H, d, J=2.45 Hz), 8.31 (1H, d, J=2.49 Hz); MS (ES+): m/z 274.21/276.19 (100/50) [MH+]; HPLC: tR=3.35 min (OpenLynx, nonpolar—7min).

reactant | (3-chloropyrazin-2-yl)-methanol | 0.33 mol, 47 g | ClC=1C(=NC=CN1)CO | C5H5ClN2O
reactant | isoindole-1,3-dione | 0.396 mol, 58.3 g, 1.2 eq. | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 0.396 mol, 89.7 g, 1.2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.396 mol, 77.1 mL, 80.2 g, 1.2 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | 2-(3-Chloropyrazin-2-ylmethyl)-isoindole-1,3-dione | ClC=1C(=NC=CN1)CN1C(C2=CC=CC=C2C1=O)=O | C13H8ClN3O2
